2121-01-31 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Axillary Aline placed
   -3sets of CE done; remained flat; cardiology consulted given ? evolving
   EKG changes and ECHO done with EF 20%
   -Evidence of pancreatitis Amylase 109, Lipase 374
   -Cards felt respiratory failure due to HTN causing flash pulmonary
   edema in setting of depressed EF and that hypotension not likely
   cardiogenic shock given HTN on initial admission and no evidence of RV
   dilation on TTE.  Suggested trial of diuresis if need to improve
   oxygenation.  Felt hypotension could be [**1-28**] pancreatitis vs hemorrhagic
   shock; did not feel ACS but did agree w/statin, aspirin. Did think
   patient may benefit from eventual cath vs stress AND may benefit from
   swan pending what other results return
   -Patient noted to have pulsatile mass and given 10pt Hct drop-->ordered
   CT torso to evalute for pancreatitis, dissecting aneurysm and PE; held
   heparin that was initially started given Hct drop
   -Prelim CT Read:
   Bilateral pleural effusions and associated bibasilar atelectasis.
   Diffuse ground glass opacification scattered throughout both lung
   fields, non-specific could relate to edema, infection or inflammation.
   No CT evidence of pancreatitis, can correlate with labs. No evidence of
   pulmonary embolism to the subsegmental levels and no evidence of
   abdominal aortic aneurysm. Status post gastric banding.
   -Looked through old records and clean cath [**2110**]
   -Sent TSH, thiamine for nutritional deficiencies given lap band and
   cardiomyopathy
   -D-dimer 1861
   -Repeat lactate 2.1-->1.0 this AM
   -Temp 100.1 at MN
   -Weaned off dobutamine, on Levo .08
   -On PSV 8/8
   -Hct 52->47->40->37.9
 INVASIVE VENTILATION - START [**2121-1-30**] 12:00 PM
 MULTI LUMEN - START [**2121-1-30**] 01:24 PM
 BLOOD CULTURED - At [**2121-1-30**] 02:37 PM
   TLCL
 SPUTUM CULTURE - At [**2121-1-30**] 02:37 PM
 URINE CULTURE - At [**2121-1-30**] 02:38 PM
 TRANSTHORACIC ECHO - At [**2121-1-30**] 04:11 PM
 ARTERIAL LINE - START [**2121-1-30**] 06:00 PM
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-30**] 05:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-1-31**] 12:29 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Heparin Sodium - [**2121-1-30**] 02:36 PM
   Fentanyl - [**2121-1-30**] 06:30 PM
   Midazolam (Versed) - [**2121-1-30**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-1-31**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 72 (68 - 109) bpm
   BP: 107/66(81) {86/51(64) - 140/74(98)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 14 (10 - 14)mmHg
   Total In:
                                                                  3,088 mL
                                                                  1,142 mL
   PO:
   TF:
   IVF:
                                                                  2,888 mL
                                                                  1,142 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    545 mL
   Urine:
                                                                    635 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,653 mL
                                                                    597 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 2 cmH2O
   Compliance: -61.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.37/44/121/24/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   276 K/uL
   12.6 g/dL
   111 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   28 mg/dL
   108 mEq/L
   140 mEq/L
   37.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2121-1-30**]  01:50 PM
                             [**2121-1-30**]  03:16 PM
                             [**2121-1-30**]  03:44 PM
                             [**2121-1-30**]  06:28 PM
                             [**2121-1-30**]  08:38 PM
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
   WBC
   22.3
   10.7
   Hct
   46.7
   40.5
   37.9
   Plt
   397
   276
   Cr
   0.9
   0.7
   TropT
   0.08
   0.05
   TCO2
   24
   26
   24
   24
   26
   26
   Glucose
   311
   111
   Other labs: PT / PTT / INR:12.2/22.8/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/1.2, Amylase
   / Lipase:109/374, Differential-Neuts:83.5 %, Band:0.0 %, Lymph:10.8 %,
   Mono:5.3 %, Eos:0.1 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:326 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   54 year old woman with past medical history of morbid obesity (s/p
   gastric lap banding), hypertension, hyperlipidemia, presenting with
   acute respiratory distress and malignant hypertension.
   .
   # RESPIRATORY FAILURE: Differential initially broad; including
   pulmonary edema (has low EF and pulmonary edema on CXR) vs pneumonia (?
   Infiltrates on exam, elevated WBC on admission/hypotension); CT Chest
   does not show any evidence of PE thus heparin gtt stopped; it does show
   ground glass opacifications which could represent edema vs infection vs
   inflammation plus b/l effusions. Pt was given initial dose of Lasix and
   covered broadly with vanc/zosyn on arrival. Respiratory status
   improving; pt was weaned overnight to PSV 8/8 and doing well
   .Continue PSV and repeat ABG; RSBI and ? able to extubated
   - possible extubation
   -Continue broad coverage with Vanc/Zosyn for possible pneumonia
   - f/u sputum
   -F./u final CT read but no evidnece of PE on initial read
   -will plan to diurese, goal -1L today. CVP goal [**2-28**].   Will give lasix
   20mg IV x1 for now and monitor
   # HYPOTENSION;Initial differential concerning for septic vs cardiogenic
   shock vs PE; however stat ECHO showed EF20% and pts initial
   presentation was hypertension; 3 sets of cardiac enzymes are negative
   and EKG not felt to be c/w ACS. Pt did have a fever/leukocytosis (now
   trending down) making  septic shock more likely.  Other possibilities
   include hemorrhagic given Hct drop (52 to 40) and pulsatile mass on
   exam; but CT chest did not show evidence of bleed or dissecting
   aneurysm to account for this.  LFTs do show evidence of pancreatitis
   although CT did not show any evidnece of this. Pt weaned off pressors
   this AM
   -- CVL in place
   --Broad coverage with Vanc/Zosyn, day #2
   --IVF (gentle given low EF), NPO for pancreatitis, repeat
   amylase/lipase this AM
   --Goal MAP>65
   -- f/u final read of CT to r/o RP bleed
   .
   #. Acute Anemia: No evidence of active bleed on CT scan.  Hct has been
   stable overnight.
   - monitor Hct
   - f/u final CT to look for RP bleed
   - hemolysis labs
   #Cardiomyopathy- EF 20% on admission; unclear cause; cardiology
   consulted because of dynamic ekg changes seen and concern for
   cardiogenic shock. Felt pt unlikely having ACS
   -Consider swan
   -Continue aspirin, statin
   - TSH and thiamine
   .
   # DIABETES: Pt with very high glucose on presentation
   -- Continue Insulin drip with conservative goal 120 to 140
   -- will switch to sliding scale
   ..
   # OBESITY: S/P Lap banding, pt at increased risk of DVT, will need to
   use Ideal body weight for ventilation
   .
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: sq heparin
   # Access: peripherals
   # Communication: Wife, ([**Telephone/Fax (1) 11329**]
   # Code: Full (discussed with HCP)
   # Disposition: ICU pending clinical improvement
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 PANCREATITIS, ACUTE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   20 Gauge - [**2121-1-30**] 01:27 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-01-31 09:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 yo morbidly obese woman admitted w/ hypoxemic resp failure and
   shock.
   24 Hour Events:
   Very active day, summarized well in Dr [**First Name (STitle) 284**]
s note. Overnight titrated
   off dobutamine, FiO2 weaned down, CT torso reviewed - no PE, no
   aneurysm/ dissection, no radiographic evidence of pancreatitis
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-30**] 05:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-1-31**] 12:29 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Heparin Sodium - [**2121-1-30**] 02:36 PM
   Fentanyl - [**2121-1-30**] 06:30 PM
   Midazolam (Versed) - [**2121-1-30**]
   Other medications:
   famotidine, ASA, Lipitor
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-1-31**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 72 (68 - 109) bpm
   BP: 107/66(81) {86/51(64) - 140/74(98)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 14 (10 - 14)mmHg
   Total In:
                                                                  3,088 mL
                                                                  1,358 mL
   PO:
   TF:
   IVF:
                                                                  2,888 mL
                                                                  1,358 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    545 mL
   Urine:
                                                                    635 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,653 mL
                                                                    813 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 472 (472 - 472) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   Plateau: 2 cmH2O
   Compliance: -61.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.37/44/121/24/0
   Ve: 7.5 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.6 g/dL
   276 K/uL
   111 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   28 mg/dL
   108 mEq/L
   140 mEq/L
   37.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2121-1-30**]  01:50 PM
                             [**2121-1-30**]  03:16 PM
                             [**2121-1-30**]  03:44 PM
                             [**2121-1-30**]  06:28 PM
                             [**2121-1-30**]  08:38 PM
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
   WBC
   22.3
   10.7
   Hct
   46.7
   40.5
   37.9
   Plt
   397
   276
   Cr
   0.9
   0.7
   TropT
   0.08
   0.05
   TCO2
   24
   26
   24
   24
   26
   26
   Glucose
   311
   111
   Other labs: PT / PTT / INR:12.2/22.8/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/1.2, Amylase
   / Lipase:109/374, Differential-Neuts:83.5 %, Band:0.0 %, Lymph:10.8 %,
   Mono:5.3 %, Eos:0.1 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:326 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Imaging: Echo- EF 20%, apical akinesis, LV hypokinesis
   CT Torso- no PE, no aneurysm/ dissection, no evidence of pancreatitis
   CXR-
   Microbiology: Sputum- poor smple
   Blood- pending
   Assessment and Plan
   54 yo morbidly obese woman admitted w/ hypoxemic resp failure and
   shock.
   (1) ACUTE RESP FAILURE - DDx includes pna + cardiogenic edema/
   effusions
   -cont vanco + zosyn empirically; re-send sputum cx, repeat flu rule out
   though not high on ddx
   -diuresis to target TBB -1-2L/d; goal CVP ~5
   - extubate today if passes SBT- may need direct to CPAP given very high
   likelihood for OSA
   (2) SHOCK - resolved, presumed septic; 10pt hct drop as well but no
   clinical correlate
   -cont to monitor Hct and manage infection as above
   -FACTT trial based diuresis today to aid liberation from vent
   (3) ACUTE ANEMIA - evaluating for occult loss vs hemolysis
   -serial hct
   -hemolysis labs
   (4) CARDIOMYOPATHY- low EF unclear etiology; no ACS and clean cath in
   [**2110**]. Takotsubo physiology an intriguing possibility given pattern of
   HK/AK on echo
   -f/u thiamine levels
   -eventual low-dose BB and ACE
   -appreciate Cards input
   (5) PSYCH- resume home Celexa
   (6) OSA
 would initiate nocturnal BiPAP. Can try auto BiPAP if
   available with EPAP [**5-10**], pressure support of 5, vs. autoCPAP 5-20cm.
   Will need to address sleep apnea longterm. Would push for outpatient
   sleep study/titration.
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:  Insulin infusion, Blood sugar well controlled
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   20 Gauge - [**2121-1-30**] 01:27 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2121-02-01 08:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    54 yo morbidly obese woman admitted [**1-30**] w/ sudden-onset hypoxemic resp
   failure and shock
   24 Hour Events:
 SPUTUM CULTURE - At [**2121-1-31**] 12:00 PM
 ULTRASOUND - At [**2121-1-31**] 01:00 PM
   R lower extremity (inner thigh) for ? abcess/cellulitis.-US shows fluid
   collection, recommended MRI to eval further
 NASAL SWAB - At [**2121-1-31**] 01:15 PM
   flu swab resent d/t insufficient cells from previous sample.
 INVASIVE VENTILATION - STOP [**2121-1-31**] 03:13 PM
 EKG - At [**2121-1-31**] 10:20 PM
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-31**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-1**] 12:00 AM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-1-31**] 04:00 PM
   Furosemide (Lasix) - [**2121-1-31**] 05:30 PM
   Famotidine (Pepcid) - [**2121-1-31**] 08:30 PM
   Hydromorphone (Dilaudid) - [**2121-1-31**] 10:20 PM
   RISS
   ASA
   Statin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-1**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 83 (77 - 101) bpm
   BP: 130/73(94) {90/51(65) - 136/77(99)} mmHg
   RR: 17 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 18 (6 - 19)mmHg
   Total In:
                                                                  2,673 mL
                                                                    182 mL
   PO:
   TF:
   IVF:
                                                                  2,553 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  3,671 mL
                                                                    720 mL
   Urine:
                                                                  3,671 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -998 mL
                                                                   -539 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 497 (497 - 497) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.41/44/95.[**Numeric Identifier 253**]/28/2
   Ve: 8.7 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Gen: alert, NAD
   Skin:  no rash
   HEENT: PERRL, anicteric
   CV: RRR, no m/r/g
   Lungs: bibasilar rales
   Abd: obese, soft, NTND
   Extrem: right thigh with soft tissue swelling. [**12-28**]+ edema bilat
   Neurologic: no focal deficits
   Labs / Radiology
   11.3 g/dL
   156 K/uL
   134 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   23 mg/dL
   103 mEq/L
   138 mEq/L
   34.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
   WBC
   10.7
   6.3
   Hct
   40.5
   37.9
   36.3
   34.3
   Plt
   276
   156
   Cr
   0.7
   0.6
   TCO2
   24
   26
   26
   25
   30
   29
   Glucose
   111
   134
   Other labs: PT / PTT / INR:11.9/23.6/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:123/182, Differential-Neuts:64.0 %, Band:0.0 %, Lymph:28.8 %,
   Mono:5.2 %, Eos:1.8 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   54 yo morbidly obese woman, h/o cardiomyopathy (extent unknown)
   admitted w/ hypoxemic resp failure and shock.
   (1) ACUTE RESP FAILURE - DDx includes pna + cardiogenic edema/
   effusions
   -started vanco + zosyn empirically; re-sent sputum cx, repeat flu rule
   out though not high on ddx. Now looks like no pneumonia, only effusions
   from CHF.  Will stop antibiotics today
   -diuresis to target TBB -1-2L/d; goal CVP ~5
   - extubated yesterday, doing well on 2L
   -follow up pleural effusions to make sure they resolve with diuresis
   -desaturated on BIPAP last night so was on nasal cannula overnight.
   Will try CPAP at night tonight due to h/o OSA
   (2) SHOCK - resolved, presumed septic; 10pt hct drop as well but no
   clinical correlate
   -cont to monitor Hct and manage infection as above
   -FACTT trial based diuresis today to aid liberation from vent
   (3) ACUTE ANEMIA - evaluating for occult loss vs hemolysis
   -serial hct, guaiac stools
   -hemolysis labs slightly high but not convincing for  hemolysis, and
   smear normal. ? due to fluid shift.  Will continue to follow closely
   (4) CARDIOMYOPATHY- low EF unclear etiology; no ACS and clean cath in
   [**2110**]. Takotsubo physiology an intriguing possibility given pattern of
   HK/AK on echo
   -f/u thiamine levels
   -eventual low-dose BB and ACE after additional diuresis
   -appreciate Cards input-cardiac MRI when diuresed
   (5) PSYCH- resume home Celexa
   (6) Thigh collection: noted on exam and ultrasound.  ? if could be a
   source of infection.  Surgery consult today to evaluate.
   (6) OSA
 would initiate nocturnal CPAP since .
   ICU Care
   Nutrition: heart healthy, diabetic diet.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   22 Gauge - [**2121-1-31**] 09:00 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: famotidine
   Code status: full
   Disposition : ICU, ? call out later today
   Total time spent: 30 min

2121-02-01 10:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2121-1-31**] 12:00 PM
 ULTRASOUND - At [**2121-1-31**] 01:00 PM
   R lower extremity (inner thigh) for ? abcess/cellulitis.
 NASAL SWAB - At [**2121-1-31**] 01:15 PM
   flu swab resent d/t insufficient cells from previous sample.
 INVASIVE VENTILATION - STOP [**2121-1-31**] 03:13 PM
 EKG - At [**2121-1-31**] 10:20 PM
   - Extubated without complication
   - Cardiology consult recommended cardiac MRI, will need to have MRI
   checklist filled ahead of time, plan for scan Tues/Wed, will require 1
   to 1.5hrs flat
   - RN pointed out area of thigh redness / fullness on right medial
   thigh, US odered (pending)
   - Received Lasix 40mg [**Hospital1 **]
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-31**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-1**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-1-31**] 04:00 PM
   Furosemide (Lasix) - [**2121-1-31**] 05:30 PM
   Famotidine (Pepcid) - [**2121-1-31**] 08:30 PM
   Hydromorphone (Dilaudid) - [**2121-1-31**] 10:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-1**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36
C (96.8
   HR: 84 (77 - 101) bpm
   BP: 136/74(97) {98/57(72) - 136/77(99)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 18 (6 - 19)mmHg
   Total In:
                                                                  2,673 mL
                                                                    304 mL
   PO:
   TF:
   IVF:
                                                                  2,553 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  3,671 mL
                                                                    840 mL
   Urine:
                                                                  3,671 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -998 mL
                                                                   -536 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 497 (497 - 497) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.41/44/95.[**Numeric Identifier 253**]/28/2
   Ve: 8.7 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   156 K/uL
   11.3 g/dL
   134 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   23 mg/dL
   103 mEq/L
   138 mEq/L
   34.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
   WBC
   10.7
   6.3
   Hct
   40.5
   37.9
   36.3
   34.3
   Plt
   276
   156
   Cr
   0.7
   0.6
   TCO2
   24
   26
   26
   25
   30
   29
   Glucose
   111
   134
   Other labs: PT / PTT / INR:11.9/23.6/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:35/46, Differential-Neuts:64.0 %, Band:0.0 %, Lymph:28.8 %,
   Mono:5.2 %, Eos:1.8 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 PANCREATITIS, ACUTE
   54 year old woman with past medical history of morbid obesity (s/p
   gastric lap banding), hypertension, hyperlipidemia, presenting with
   acute respiratory distress and malignant hypertension.
   .
   # RESPIRATORY FAILURE: Differential initially broad; including
   pulmonary edema (has low EF and pulmonary edema on CXR) vs pneumonia (?
   Infiltrates on exam, elevated WBC on admission/hypotension); CT Chest
   does not show any evidence of PE thus heparin gtt stopped; it does show
   ground glass opacifications which could represent edema vs infection vs
   inflammation plus b/l effusions. Pt was given initial dose of Lasix and
   covered broadly with vanc/zosyn on arrival. Respiratory status
   improving; pt was weaned overnight to PSV 8/8 and doing well
   .Continue PSV and repeat ABG; RSBI and ? able to extubated
   - possible extubation
   -Continue broad coverage with Vanc/Zosyn for possible pneumonia
   - f/u sputum
   -F./u final CT read but no evidnece of PE on initial read
   -will plan to diurese, goal -1L today. CVP goal [**2-28**].   Will give lasix
   20mg IV x1 for now and monitor
   # HYPOTENSION;Initial differential concerning for septic vs cardiogenic
   shock vs PE; however stat ECHO showed EF20% and pts initial
   presentation was hypertension; 3 sets of cardiac enzymes are negative
   and EKG not felt to be c/w ACS. Pt did have a fever/leukocytosis (now
   trending down) making  septic shock more likely.  Other possibilities
   include hemorrhagic given Hct drop (52 to 40) and pulsatile mass on
   exam; but CT chest did not show evidence of bleed or dissecting
   aneurysm to account for this.  LFTs do show evidence of pancreatitis
   although CT did not show any evidnece of this. Pt weaned off pressors
   this AM
   -- CVL in place
   --Broad coverage with Vanc/Zosyn, day #2
   --IVF (gentle given low EF), NPO for pancreatitis, repeat
   amylase/lipase this AM
   --Goal MAP>65
   -- f/u final read of CT to r/o RP bleed
   .
   #. Acute Anemia: No evidence of active bleed on CT scan.  Hct has been
   stable overnight.
   - monitor Hct
   - f/u final CT to look for RP bleed
   - hemolysis labs
   #Cardiomyopathy- EF 20% on admission; unclear cause; cardiology
   consulted because of dynamic ekg changes seen and concern for
   cardiogenic shock. Felt pt unlikely having ACS
   -Consider swan
   -Continue aspirin, statin
   - TSH and thiamine
   .
   # DIABETES: Pt with very high glucose on presentation
   -- Continue Insulin drip with conservative goal 120 to 140
   -- will switch to sliding scale
   ..
   # OBESITY: S/P Lap banding, pt at increased risk of DVT, will need to
   use Ideal body weight for ventilation
   .
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: sq heparin
   # Access: peripherals
   # Communication: Wife, ([**Telephone/Fax (1) 11329**]
   # Code: Full (discussed with HCP)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2121-02-02 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2121-2-1**] 02:33 PM
   -- Patient given 40mg IV lasix and -800 at midnight. Gave another 40mg
   IV lasix.
   -- pt was leaking urine around foley, so it was d/c
   -- respiratory screen negative
   -- sputum cx growing coag positive staph (d/c vanco earlier in the
   day), restarted vanco
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-1**] 09:00 AM
   Vancomycin - [**2121-2-2**] 12:23 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-2-2**] 12:10 AM
   Furosemide (Lasix) - [**2121-2-2**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-2**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 70 (70 - 95) bpm
   BP: 156/89(106) {128/41(60) - 166/95(112)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 18 (18 - 18)mmHg
   Total In:
                                                                  1,482 mL
                                                                    238 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                    762 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                  2,800 mL
   Urine:
                                                                  2,240 mL
                                                                  2,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -758 mL
                                                                 -2,562 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   194 K/uL
   11.6 g/dL
   188 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   26 mg/dL
   101 mEq/L
   140 mEq/L
   34.2 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
                             [**2121-2-1**]  05:34 PM
                             [**2121-2-2**]  03:45 AM
   WBC
   10.7
   6.3
   6.3
   Hct
   37.9
   36.3
   34.3
   34.2
   Plt
   [**Telephone/Fax (3) 11399**]
   Cr
   0.7
   0.6
   0.5
   0.6
   TCO2
   26
   26
   25
   30
   29
   Glucose
   111
   134
   177
   188
   Other labs: PT / PTT / INR:11.8/23.0/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:35/46, Differential-Neuts:62.2 %, Band:0.0 %, Lymph:28.5 %,
   Mono:6.0 %, Eos:3.1 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 ACUTE PAIN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 PANCREATITIS, ACUTE
   54 year old woman with past medical history of morbid obesity (s/p
   gastric lap banding), hypertension, hyperlipidemia, presenting with
   acute respiratory distress and malignant hypertension.
   .
   # RESPIRATORY FAILURE: Differential initially broad; including
   pulmonary edema (has low EF and pulmonary edema on CXR) vs pneumonia (?
   Infiltrates on exam, elevated WBC on admission/hypotension); CT Chest
   does not show any evidence of PE thus heparin gtt stopped; it does show
   ground glass opacifications which could represent edema vs infection vs
   inflammation plus b/l effusions. Pt was given initial dose of Lasix and
   covered broadly with vanc/zosyn on arrival. Respiratory status improved
   and extubated overnight. Pt did not toelrate BiPAP overnight
   -will d/c  Vanc/Zosyn given no evidence of infection
   - f/u sputum and respiratory viral sceen
   -will plan to diurese, goal -1L today. CVP goal [**2-28**].   Will give lasix
   40mg [**Hospital1 **]
   # HYPOTENSION;Initial differential concerning for septic vs cardiogenic
   shock vs PE; however stat ECHO showed EF20% and pts initial
   presentation was hypertension; 3 sets of cardiac enzymes are negative
   and EKG not felt to be c/w ACS.  Other possibilities include
   hemorrhagic given Hct drop (52 to 40) and pulsatile mass on exam; but
   CT chest did not show evidence of bleed or dissecting aneurysm to
   account for this.  LFTs do show evidence of pancreatitis although CT
   did not show any evidnece of this. Pt weaned off pressors yesterday
   -- CVL in place
   -- d/c Vanc/Zosyn and monitor
   --Goal MAP>65
   .
   #. Acute Anemia: No evidence of active bleed on CT scan.  Hct has been
   stable overnight. No evidence of hemolysis. Hct remaining stable
   - monitor Hct
   #Cardiomyopathy- EF 20% on admission; unclear cause; cardiology
   consulted because of dynamic ekg changes seen and concern for
   cardiogenic shock. Felt pt unlikely having ACS. Reduced EF of 20%
   Cardiology consult
   -Cardiac MRI
   - f/u Cardiology recs
   -Continue aspirin, statin
   .
   # DIABETES: Pt with very high glucose on presentation. Off insulin gtt.
   Cont ISS
   .
   #Right Medial Thigh Collection: U/S shows collection unable to fully
   assess.  Unclear whether infection underlying.
   - plan to re-eval and consider surgery consult
   .
   # OBESITY: S/P Lap banding, pt at increased risk of DVT, will need to
   use Ideal body weight for ventilation
   .
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: sq heparin
   # Access: peripherals
   # Communication: Wife, ([**Telephone/Fax (1) 11329**]
   # Code: Full (discussed with HCP)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2121-02-02 07:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    54 yo morbidly obese woman admitted [**1-30**] w/ sudden-onset hypoxemic resp
   failure and shock, now extubated and improving with diuresis
   24 Hour Events:
 ARTERIAL LINE - STOP [**2121-2-1**] 02:33 PM
   Diuresing well
   Resp viral screen negative
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-2-2**] 12:23 AM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-2-2**] 12:10 AM
   Furosemide (Lasix) - [**2121-2-2**] 12:10 AM
   Famotidine
   Statin
   ASA
   RISS
   Dilaudid prn
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-2**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 70 (70 - 95) bpm
   BP: 156/89(106) {128/41(60) - 166/95(112)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 18 (18 - 18)mmHg
   Total In:
                                                                  1,482 mL
                                                                    240 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                    762 mL
                                                                    240 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                  2,800 mL
   Urine:
                                                                  2,240 mL
                                                                  2,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -758 mL
                                                                 -2,560 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   Gen: NAD, alert
   HEENT: PERRL, anicteric
   Neck: no JVD
   CV: RRR, no m/r/g
   Lungs:
   Abd:soft, NTND
   Extrem:
   Labs / Radiology
   11.6 g/dL
   194 K/uL
   188 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   26 mg/dL
   101 mEq/L
   140 mEq/L
   34.2 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
                             [**2121-2-1**]  05:34 PM
                             [**2121-2-2**]  03:45 AM
   WBC
   10.7
   6.3
   6.3
   Hct
   37.9
   36.3
   34.3
   34.2
   Plt
   [**Telephone/Fax (3) 11399**]
   Cr
   0.7
   0.6
   0.5
   0.6
   TCO2
   26
   26
   25
   30
   29
   Glucose
   111
   134
   177
   188
   Other labs: PT / PTT / INR:11.8/23.0/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:35/46, Differential-Neuts:62.2 %, Band:0.0 %, Lymph:28.5 %,
   Mono:6.0 %, Eos:3.1 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.8
   mg/dL
   Sputum: coag neg staph
   Assessment and Plan
   54 yo morbidly obese woman, h/o cardiomyopathy (extent unknown)
   admitted w/ hypoxemic resp failure and shock.
   (1) ACUTE RESP FAILURE - DDx includes pna + cardiogenic edema/
   effusions
   -started vanco + zosyn empirically; re-sent sputum cx, repeat flu rule
   out though not high on ddx. Now looks like no pneumonia, only effusions
   from CHF.  Will stop antibiotics today
   -diuresis to target TBB -1-2L/d; goal CVP ~5
   - extubated yesterday, doing well on 2L
   -follow up pleural effusions to make sure they resolve with diuresis
   -desaturated on BIPAP last night so was on nasal cannula overnight.
   Will try CPAP at night tonight due to h/o OSA
   (2) SHOCK - resolved, presumed septic; 10pt hct drop as well but no
   clinical correlate
   -cont to monitor Hct and manage infection as above
   -FACTT trial based diuresis today to aid liberation from vent
   (3) ACUTE ANEMIA - evaluating for occult loss vs hemolysis
   -serial hct, guaiac stools
   -hemolysis labs slightly high but not convincing for  hemolysis, and
   smear normal. ? due to fluid shift.  Will continue to follow closely
   (4) CARDIOMYOPATHY- low EF unclear etiology; no ACS and clean cath in
   [**2110**]. Takotsubo physiology an intriguing possibility given pattern of
   HK/AK on echo
   -f/u thiamine levels
   -eventual low-dose BB and ACE after additional diuresis
   -appreciate Cards input-cardiac MRI when diuresed
   (5) PSYCH- resume home Celexa
   (6) Thigh collection: noted on exam and ultrasound.  ? if could be a
   source of infection.  Surgery consult today to evaluate.
   (6) OSA
 would initiate nocturnal CPAP since .
   (7) Hematuria:  will decrease prophylactic sc heparin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: